US08791142B2
5-{5-[2-(methoxymethyl)-2′-methylbiphenyl-4-yl]-1,2,4-oxadiazol-3-yl}pyridine-2-carboxamide
To a solution of 5-{5-[2-(methoxymethyl)-2′-methylbiphenyl-4-yl]-1,2,4-oxadiazol-3-yl}pyridine-2-carboxylic acid hydrochloride (100 mg, 0.23 mmol) in anhydrous DCM (5 mL) was added oxalyl chloride (0.058 mL, 0.69 mmol) and DMF (1 drop). The resulting mixture was stirred at RT for 1 hour. The reaction mixture was concentrated under reduced pressure. The residue was taken up with anhydrous THF (2 mL) and a 0.5N solution of ammonia in dioxane (4.5 mL, 2.25 mmol) was added. The mixture was stirred at RT for 1 hour, and then concentrated under reduced pressure. The residue was taken up with Et2O. The precipitate was filtered off, washed with Et2O and dried under reduced pressure to give the title compound as a beige powder (88 mg, 96%). HPLC (Method A), Rt: 4.7 min (purity: 95.4%). UPLC/MS, M+(ESI): 401.2. 1H NMR (CD3OD, 300 MHz) δ 9.41 (dd, J=2.1, 0.9 Hz, 1H), 8.71 (dd, J=8.2, 2.1 Hz, 1H), 8.44 (d, J=1.8 Hz, 1H), 8.31 (dd, J=8.2, 0.9 Hz, 1H), 8.24 (dd, J=7.9, 1.8 Hz, 1H), 7.41 (d, J=7.9 Hz, 1H), 7.34 (m, 2H), 7.28 (m, 1H), 7.13 (d, J=7.1 Hz, 1H), 4.24 (s, 2H), 3.32 (s, 3H), 2.09 (s, 3H).

reactant | 5-{5-[2-(methoxymethyl)-2′-methylbiphenyl-4-yl]-1,2,4-oxadiazol-3-yl}pyridine-2-carboxylic acid hydrochloride | 0.23 mmol, 100 mg | Cl.COCC1=C(C=CC(=C1)C1=NC(=NO1)C=1C=CC(=NC1)C(=O)O)C1=C(C=CC=C1)C
reactant | oxalyl chloride | 0.69 mmol, 0.058 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | ammonia | N | H3N
reactant | dioxane | 2.25 mmol, 4.5 mL | O1CCOCC1 | C4H8O2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
product | 5-{5-[2-(methoxymethyl)-2′-methylbiphenyl-4-yl]-1,2,4-oxadiazol-3-yl}pyridine-2-carboxamide | 88 mg, 96% | COCC1=C(C=CC(=C1)C1=NC(=NO1)C=1C=CC(=NC1)C(=O)N)C1=C(C=CC=C1)C | C23H20N4O3
